US06165942
Synthesis of 3-(4-chlorophenyl)-3,4-dihydro-2-hydrazino-6-trifluoromethylpyrimidin-4-one
A mixture of 3-(4-chlorophenyl)-3,4-dihydro-2-methanesulfonyl-6-trifluoromethylpyrimidin-4-one (2.0 g) and tetrahydrofuran (20 ml) was added with hydrazine monohydrate (NH2NH2. H2O) (0.5 g). After stirring for 30 minuets at room temperature, the mixture was added with saturated brine (30 ml) and then extracted with ethyl acetate. The extract layer was washed with water and then dried on anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give the compound of interest (1.5 g) as a milk white solid.

reactant | 3-(4-chlorophenyl)-3,4-dihydro-2-methanesulfonyl-6-trifluoromethylpyrimidin-4-one | 2.0 g | ClC1=CC=C(C=C1)N1C(=NC(=CC1=O)C(F)(F)F)S(=O)(=O)C | C12H8ClF3N2O3S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | hydrazine monohydrate | 0.5 g | O.NN
solvent | brine | 30 ml | [Cl-].[Na+].O
product | 3-(4-chlorophenyl)-3,4-dihydro-2-hydrazino-6-trifluoromethylpyrimidin-4-one | ClC1=CC=C(C=C1)N1C(=NC(=CC1=O)C(F)(F)F)NN | C11H8ClF3N4O
